US03995054
To a solution of 2.88 g. of 1,4-cyclohexanedimethanol in 100 ml. ether is added 5.3 g, of cyclopropanecarboxylic acid chloride. Upon the addition of 4.8 g. of pyridine, a precipitate forms immediately, accompanied by the evolution of a small amount of heat. The reaction mixture is stirred for one hour, water and pentane are added, the mixture is acidified with 3 N sulfuric acid, the organic phase is separated and then washed with water, potassium carbonate, saturated aqueous copper sulfate, water and brine. The solution is then dried and solvent removed to yield 1,4-dimethylenecyclohexane bis(cyclopropanecarboxylate). The above product can also be named as (1,4-bis(cyclopropylcarbonyloxymethyl)cyclohexane) ##SPC2##

reactant | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
reactant | ether | CCOCC | C4H10O
reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sulfuric acid | 3 N | S(O)(O)(=O)=O | H2O4S
solvent | pentane | CCCCC | C5H12
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,4-dimethylenecyclohexane bis(cyclopropanecarboxylate) | C1(CC1)C(=O)O.C1(CC1)C(=O)O.C=C1CCC(CC1)=C | InChI=1S/C8H12.2C4H6O2/c1-7-3-5-8(2)6-4-7;2*5-4(6)3-1-2-3/h1-6H2;2*3H,1-2H2,(H,5,6)
